US09034866B2
Synthesis of (±)-8-Fluoro-9-(3-hydroxy-3-methylcarbamoyl-but-1-ynyl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide
In a 20-mL sealed tube, methyl 4-[4-carbamoyl-12-fluoro-9-oxa-3,6-diazatricyclo[8.4.0.0[2,6]]tetradeca-1(14),2,4,10,12-pentaen-13-yl]-2-hydroxy-2-methylbut-3-ynoate (120 mg, 0.32 mmol, 1.00 equiv) was added into a solution of methanamine (30% w/w in ethanol, 5 mL). The resulting solution was stirred for 8 h at room temperature. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:5). This resulted in 35 mg (29%) of 8-Fluoro-9-(3-hydroxy-3-methylcarbamoyl-but-1-ynyl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide as a yellow solid. LC-MS: (ES, m/z): 373 [M+H]; 1H-NMR: (300 MHz, DMSO-d6, ppm): δ 8.548 (d, 1H), 8.000-7.800 (m, 1H), 7.773 (s, 1H), 7.564 (br s, 1H), 7.108 (br s, 1H), 7.012 (d, 1H), 6.551 (s, 1H), 4.551-4.481 (m, 4H), 2.624 (d, 3H), 1.603 (s, 3H).

reactant | methyl 4-[4-carbamoyl-12-fluoro-9-oxa-3,6-diazatricyclo[8.4.0.0[2,6]]tetradeca-1(14),2,4,10,12-pentaen-13-yl]-2-hydroxy-2-methylbut-3-ynoate | 0.32 mmol, 120 mg, 1.00 equiv | C(N)(=O)C=1N=C2C3=CC(=C(C=C3OCCN2C1)F)C#CC(C(=O)OC)(C)O | C18H16FN3O5
reactant | methanamine | 5 mL | CN | CH5N
product | (±)-8-Fluoro-9-(3-hydroxy-3-methylcarbamoyl-but-1-ynyl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | FC1=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C=C1C#CC(C)(C(NC)=O)O | C18H17FN4O4
